US04997855
Under a nitrogen atmosphere, a stirred solution of 10.0 grams (0.045 mole) of 90% pure tridecylic aldehyde and 19.0 grams (0.091 mole) of dibromodifluoromethane in 25 ml of dimethylacetamide is cooled to 0° C. and a solution of 23.8 grams (0.091 mole) of triphenylphosphine in 35 ml of dimethylacetamide is slowly added dropwise during a two hour period. Upon completion of addition the reaction mixture is warmed to ambient temperature and stirred for 30 minutes. After this time 5.9 grams (0.091 mole) of zinc dust is cautiously added portionwise. Upon completion of addition, the reaction mixture is heated to 90° C. and stirred for three hours, then cooled to ambient temperature and stirred for 16 hours. The reaction mixture is filtered and the filtrate diluted with water. The mixture is extracted with hexane using a continuous extracting apparatus. The organic layer is concentrated under reduced pressure to a residual oil/solid mixture. The residue is distilled under reduced pressure through a Vigreux column to yield 3.9 grams of 1,1-difluoro-1-tetradecene; b.p. 140°-145° C./ 35mm. The nmr spectrum is consistent with the proposed structure.

reactant | dibromodifluoromethane | 0.091 mole, 19.0 grams | BrC(F)(F)Br | CBr2F2
reactant | triphenylphosphine | 0.091 mole, 23.8 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dimethylacetamide | 25 ml | CC(=O)N(C)C | C4H9NO
reactant | dimethylacetamide | 35 ml | CC(=O)N(C)C | C4H9NO
catalyst | zinc | 0.091 mole, 5.9 grams | [Zn] | Zn
product | 1,1-difluoro-1-tetradecene | 3.9 grams | FC(=CCCCCCCCCCCCC)F | C14H26F2
